US06525046B1
5-Amino-2-methyl-pyridine (9.90 g, 91.6 mmol) was dissolved in 6 N HCl (100 mL), cooled to 0° C., and vigorously stirred throughout the procedure. Sodium nitrite (6.32 g, 91.6 mmol) was dissolved in water (50 mL), this solution was added to the reaction solution. After 30 min, tin (II) chloride dihydrate (52.0 g, 230 mmol) in 6 N HCl (100 mL) was added, and the reaction slurry was stirred at 0° C. for 3h. The pH was adjusted to pH 14 with 40% aqueous potassium hydroxide solution. EtOAc extractions (6×250 mL), drying the organics over solid magnesium sulfate, and concentration afforded 5-hydrazino-2-methyl-pyridine as a tan solid (8.0 g). This material was used directly without further purification.

reactant | 5-Amino-2-methyl-pyridine | 91.6 mmol, 9.90 g | NC=1C=CC(=NC1)C | C6H8N2
reactant | Sodium nitrite | 91.6 mmol, 6.32 g | N(=O)[O-].[Na+]
reactant | tin (II) chloride dihydrate | 230 mmol, 52.0 g | O.O.[Sn](Cl)Cl
reactant | potassium hydroxide | [OH-].[K+]
solvent | HCl | 6 N, 100 mL | Cl | ClH
solvent | water | 50 mL | O | H2O
solvent | HCl | 6 N, 100 mL | Cl | ClH
product | 5-hydrazino-2-methyl-pyridine | 8.0 g | N(N)C=1C=CC(=NC1)C | C6H9N3
